US04183859
To 2.5 g of 4-(2-thienylcarbonyl)-1-indancarbonitrile is added 20 ml of 60% sulfuric acid together with 10 ml of acetic acid. The mixture is refluxed in argon gas for 2.5 hours. After cooling, water is added to the reaction mixture which is then extracted with benzene. The benzene layer is washed with water and extracted with a 5% aqueous solution of potassium carbonate. The extract is made acidic with hydrochloric acid and the precipitate is extracted with benzene. The benzene layer is washed with water, dried and decolorized with activated carbon. The solvent is then distilled off under reduced pressure and the residue is crystallized from benzene-cyclohexane (1:2). By the above procedure is obtained 4-(2-thienylcarbonyl)-1-indancarboxylic acid as crystals melting at 121.5°-123.5° C.

reactant | 4-(2-thienylcarbonyl)-1-indancarbonitrile | 2.5 g | S1C(=CC=C1)C(=O)C1=C2CCC(C2=CC=C1)C#N | C15H11NOS
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(2-thienylcarbonyl)-1-indancarboxylic acid | S1C(=CC=C1)C(=O)C1=C2CCC(C2=CC=C1)C(=O)O | C15H12O3S
